US07855202B2
3″-Chloro-3,2′:3′,4″-terpyridine-5′,6′-diamine
3″-chloro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine (127 mg, 0.39 mmol) was dissolved in EtOH (4.0 mL) and conc. HCl (245 μL). Iron metal (109 mg, 1.09 mmol) was added to the suspension and the mixture was heated to 70° C. for 1 h. The suspension was then filtered through Celite® and the solvent removed in vacuo. NaHCO3 (20 mL of a 4% w/w aqueous solution) was added to the residue and the aqueous phase was extracted with AcOEt (3×20 mL). The organic layer was dried, filtered and concentrated to dryness to yield the title compound (52 mg, 45%), which was used without further purification.

reactant | 3″-chloro-5′-nitro-3,2′:3′,4″-terpyridin-6′-amine | 0.39 mmol, 127 mg | ClC=1C=NC=CC1C=1C(=NC(=C(C1)[N+](=O)[O-])N)C=1C=NC=CC1 | C15H10ClN5O2
reactant | HCl | 245 μL | Cl | ClH
solvent | EtOH | 4.0 mL | CCO | C2H6O
catalyst | Iron | 1.09 mmol, 109 mg | [Fe] | Fe
product | 3″-Chloro-3,2′:3′,4″-terpyridine-5′,6′-diamine | 52 mg, 45% | ClC=1C=NC=CC1C=1C(=NC(=C(C1)N)N)C=1C=NC=CC1 | C15H12ClN5
